US05422358
Preparation of 1-(4-chlorophenethyl)-3-(R)-(+)-(1-cyano-1,1diphenylmethyl)piperidine
A mixture containing 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine (1 g--see Preparation 1), 4-chlorophenethyl bromide (0.72 g), anhydrous potassium carbonate (1.5 g) and acetonitrile (25 ml) was heated under reflux for 4 hours. The mixture was partitioned between dichloromethane (50 ml) and 10% aqueous potassium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (3×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing dichloromethane (30% up to 70%) and then dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was crystallised from acetonitrile to give the title compound as colourless rhombs, yield 0.85 g, m.p. 129°14 131° C. [α]D25 +20.3 (c 1.0, CH2Cl2)

reactant | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine | 1 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | 4-chlorophenethyl bromide | 0.72 g | ClC1=CC=C(CCBr)C=C1 | C8H8BrCl
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-(4-chlorophenethyl)-3-(R)-(+)-(1-cyano-1,1diphenylmethyl)piperidine | ClC1=CC=C(CCN2C[C@H](CCC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C#N)C=C1 | C27H27ClN2
